US07825253B2
N5-(1H-Indol-4-yl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=369.4 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline, 5-methyl-2-furanmethanamine and 4-aminoindole.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 4-aminoindole | NC1=C2C=CNC2=CC=C1 | C8H8N2
product | N5-(1H-Indol-4-yl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | N1C=CC2=C(C=CC=C12)NC=1C=2C=CC(=NC2C=CC1)NCC=1OC(=CC1)C | C23H20N4O
